US04739047
2-Chloroallyl Oxalofluoride [(2-Chloroallyloxy)oxalyl Fluoride] CH2 =CClCH2O(CO)COF
Under dry N2 in flame dried glass apparatus, cesium fluoride (167 g, 1.1 mol) was placed in a 1 liter single neck flask and placed under high vacuum and gently heated with a flame until the solid became free flowing, then cooled to room temperature. Acetonitrile, distilled from CaH2 (183 ml) was added and the mixture cooled to -20° C. internal temperature. 2-Chloroallyl oxalochloride (183 g, 1.0 mol) was added dropwise over a 30 minute period and the mixture slowly warmed to room temperature, stirred at that temperature for 16 hours, and byproduct cesium chloride recovered by filtration with acetonitrile wash. The filtrate and wash were combined and stripped, and the residue distilled at reduced temperature to yield 129 g (77%) of the desired product, b.p. 62°-64° C./22 mm.

reactant | cesium fluoride | 1.1 mol, 167 g | [F-].[Cs+]
reactant | 2-Chloroallyl oxalochloride | 1.0 mol, 183 g | ClC(COC(C(=O)Cl)=O)=C | C5H4Cl2O3
product | 2-Chloroallyl Oxalofluoride | 129 g, 77% | ClC(COC(C(=O)F)=O)=C | C5H4ClFO3
